US08980911B2
4-{[7-(Acetylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl]carbonyl}-3,5-dichlorobenzoic acid (0.1 g, 0.25 mmol) was taken in a reaction vial. To it 2-(2-aminoethoxy)ethanol (0.029 g, 2.8 mmol), 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide (0.073 g, 3.8 mmol), 1-hydroxybenzotriazole (0.051 g, 3.8 mmol) and dimethylformamide (2 mL) were added. The whole reaction mixture was stirred at room temperature for overnight. Water (20 mL) was added to the reaction mixture, extracted with ethyl acetate (3×50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum to get the crude mass which was purified by flash column chromatography to get 4-{[7-(acetylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl]carbonyl}-3,5-dichloro-N-[2-(2-hydroxyethoxy)ethyl]benzamide (0.035 g, 29%).

reactant | 4-{[7-(Acetylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl]carbonyl}-3,5-dichlorobenzoic acid | 0.25 mmol, 0.1 g | C(C)(=O)NC=1N=CC=C2C1NC=C2C(=O)C2=C(C=C(C(=O)O)C=C2Cl)Cl | C17H11Cl2N3O4
reactant | 2-(2-aminoethoxy)ethanol | 2.8 mmol, 0.029 g | NCCOCCO | C4H11NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide | 3.8 mmol, 0.073 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 3.8 mmol, 0.051 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | Water | 20 mL | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-{[7-(acetylamino)-1H-pyrrolo[2,3-c]pyridin-3-yl]carbonyl}-3,5-dichloro-N-[2-(2-hydroxyethoxy)ethyl]benzamide | 0.035 g, 29% | C(C)(=O)NC=1N=CC=C2C1NC=C2C(=O)C2=C(C=C(C(=O)NCCOCCO)C=C2Cl)Cl | C21H20Cl2N4O5
